US04510226
25 Grams of 2,6-dimethylphenol was dissolved in 246 ml of 50% aqueous glacial acetic acid solution. To this solution being kept at 15° C. or lower was added dropwise 91 g of 30% aqueous sodium nitrite solution, whereby 2,6-dimethyl-p-nitrosophenol was obtained. The compound was reduced to be converted to an amino compound. The amino compound was subjected to diazotization at 0° to 2° C. Into the resulting reaction mixture was poured a 50% aqueous zinc chloride solution. By thorough mixing, a double salt of a diazonium salt with zinc chloride was deposited. Infrared absorption spectra (KBr tablet method): around 3300 cm-1, 2200 cm-1, 1570 cm-1, 1080 cm-1, 930 cm-1 ; ultraviolet absorption spectra (solvent: water), wavelength at maximum absorption: 364 nm. SYNTHESIS EXAMPLES 5 AND 6

reactant | 2,6-dimethylphenol | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | sodium nitrite | 91 g | N(=O)[O-].[Na+]
solvent | acetic acid | 246 ml | C(C)(=O)O | C2H4O2
product | 2,6-dimethyl-p-nitrosophenol | CC1=C(C(=CC(=C1)N=O)C)O | C8H9NO2
